*
*|DSPF 1.5
*
*|DATE "Wed May  8 12:07:37 2013"
*|VENDOR "Cadence Design Systems"
*|PROGRAM "Cadence Extraction QRC"
*|VERSION "12.1 Linux 64 bit - (Fri Mar 15 17:53:47 PDT 2013)"
*|DESIGN "TLATX2"
*|DIVIDER /
*|DELIMITER :
*|DeviceFingerDelim "@"
*|BUSBIT []
** caps2d version: 10
*
.GLOBAL  VDD VSS
*
.SUBCKT  TLATX2 G QN D Q
*
*Net Section
*
*|GROUND_NET VSS
*
*|NET G 2.20287e-16
*|P (G X 0 1.9000 1.0450)
*|I (Mmn0:g Mmn0 g X 0 1.9575 0.5075)
*|I (Mmp0:g Mmp0 g X 0 1.9825 1.1975)
*|S (G:2 1.9550 0.9800)
*|S (G:4 1.9275 0.9800)
*|S (G:5 1.9550 0.9800)
*|S (G:6 1.9275 1.0450)
C1 Mmp0:g VSS 4.19129e-17
C2 Mmn0:g VSS 5.74897e-17
C3 G:6 VSS 3.20339e-17
C4 G:4 VSS 5.24907e-17
C5 G:2 VSS 3.63599e-17
Rl1 G:2 Mmn0:g 138.441452 $W=0.039
Rl2 Mmp0:g G:2 29.537928 $W=0.039
Rk3 G:2 G:5 45.000000 $W=0.187
Rk4 G:4 G:5 0.006478 $W=0.27
Rk5 G G:6 0.006360 $W=0.27
Rk6 G:4 G:6 0.021902 $W=0.187
*
*|NET QN 1.41466e-16
*|P (QN X 0 2.3000 0.4750)
*|I (Mmn22:d Mmn22 d X 0 2.2725 0.4500)
*|I (Mmp22:d Mmp22 d X 0 2.2900 1.1100)
C6 Mmp22:d VSS 9.08954e-17
C7 QN VSS 5.05703e-17
Rk7 Mmn22:d QN 75.002998 $W=0.08
Rk8 Mmp22:d QN 21.103207 $W=0.09
*
*|NET D 2.46122e-16
*|P (D X 0 0.5000 1.0450)
*|I (Mmn5:g Mmn5 g X 0 0.4625 0.5875)
*|I (Mmp5:g Mmp5 g X 0 0.4625 1.3575)
*|S (D:2 0.4350 0.7700)
C8 Mmp5:g VSS 5.13436e-17
C9 Mmn5:g VSS 2.82986e-17
C10 D:2 VSS 1.13145e-16
C11 D VSS 5.33348e-17
Rl9 D:2 Mmn5:g 29.537926 $W=0.039
Rl10 Mmp5:g D:2 171.845612 $W=0.039
Rk11 D D:2 45.083527 $W=0.205
*
*|NET Q 1.15753e-16
*|P (Q X 0 3.3000 0.6650)
*|I (Mmn21:d Mmn21 d X 0 3.2650 0.4500)
*|I (Mmp21:d Mmp21 d X 0 3.2650 1.1100)
C12 Mmp21:d VSS 7.98148e-17
C13 Mmn21:d VSS 1.27644e-17
C14 Q VSS 2.31743e-17
Rk12 Mmn21:d Q 75.086906 $W=0.1
Rk13 Mmp21:d Q 20.933369 $W=0.1
*
*|NET Gb 9.82997e-16
*|I (Mmn1:g Mmn1 g X 0 0.2575 0.5875)
*|I (Mmn16:g Mmn16 g X 0 1.1725 0.5875)
*|I (Mmn0:d Mmn0 d X 0 1.8650 0.5075)
*|I (Mmp1:g Mmp1 g X 0 0.2575 1.3575)
*|I (Mmp6:g Mmp6 g X 0 0.7775 1.3575)
*|I (Mmp0:d Mmp0 d X 0 1.8900 1.1975)
*|S (Gb:2 0.2300 1.1400)
*|S (Gb:5 0.8050 1.0300)
*|S (Gb:7 1.1450 0.2800)
*|S (Gb:9 0.7750 1.2150)
C15 Mmp0:d VSS 1.49592e-16
C16 Mmp6:g VSS 2.74461e-17
C17 Mmp1:g VSS 3.05982e-17
C18 Mmn0:d VSS 7.04056e-17
C19 Mmn16:g VSS 7.85196e-17
C20 Mmn1:g VSS 5.38098e-17
C21 Gb:9 VSS 1.46972e-16
C22 Gb:2 VSS 1.21274e-16
C23 Gb:5 VSS 1.46522e-16
C24 Gb:7 VSS 1.57859e-16
Rl14 Gb:2 Mmn1:g 171.845612 $W=0.039
Rl15 Mmn16:g Gb:7 122.614845 $W=0.039
Rl16 Mmp1:g Gb:2 29.537928 $W=0.039
Rl17 Mmp6:g Gb:5 116.845619 $W=0.039
Rk18 Gb:5 Gb:7 0.710975 $W=0.06
Rk19 Gb:9 Gb:5 0.140598 $W=0.0965
Rk20 Gb:9 Gb:2 45.418736 $W=0.08
Rk21 Gb:7 Mmn0:d 75.579987 $W=0.09
Rk22 Mmp0:d Gb:9 63.164532 $W=0.08
*
*|NET Gbb 4.31908e-16
*|I (Mmn1:d Mmn1 d X 0 0.1650 0.5875)
*|I (Mmn6:g Mmn6 g X 0 0.9675 0.5875)
*|I (Mmp1:d Mmp1 d X 0 0.1650 1.3575)
*|I (Mmp16:g Mmp16 g X 0 1.0675 1.3575)
*|S (Gbb:2 0.9675 0.7875)
*|S (Gbb:3 0.7200 0.7600)
*|S (Gbb:6 0.1550 0.5750)
C25 Mmp16:g VSS 6.85222e-17
C26 Mmp1:d VSS 7.81121e-17
C27 Mmn6:g VSS 3.01134e-17
C28 Mmn1:d VSS 8.69228e-17
C29 Gbb:2 VSS 5.3626e-17
C30 Gbb:3 VSS 1.14612e-16
Rl23 Gbb:2 Gbb:3 125.694534 $W=0.039
Rl24 Gbb:2 Mmn6:g 41.989189 $W=0.039
Rl25 Mmp16:g Gbb:2 205.747116 $W=0.039
Rk26 Gbb:3 Gbb:6 0.502261 $W=0.08
Rk27 Mmn1:d Gbb:6 75.000000 $W=0.09
Rk28 Gbb:6 Mmp1:d 62.628036 $W=0.09
*
*|NET net257 1.17585e-17
*|I (Mmn5:d Mmn5 d X 0 0.7150 0.5875)
*|I (Mmn6:s Mmn6 s X 0 0.7150 0.5875)
C31 Mmn5:d VSS 1.17585e-17
Rmw29 Mmn6:s Mmn5:d 0.001000 $W=1
*
*|NET n0 3.52408e-16
*|I (Mmn6:d Mmn6 d X 0 1.0700 0.5875)
*|I (Mmn10:g Mmn10 g X 0 1.5225 0.5575)
*|I (Mmp6:d Mmp6 d X 0 0.9225 1.3575)
*|I (Mmp10:g Mmp10 g X 0 1.5225 1.1450)
*|S (n0:2 1.5225 0.7600)
*|S (n0:3 1.4650 0.7600)
*|S (n0:5 1.0400 0.7600)
C32 Mmp10:g VSS 5.79375e-17
C33 Mmp6:d VSS 7.98624e-17
C34 Mmn10:g VSS 3.7378e-17
C35 Mmn6:d VSS 3.02044e-17
C36 n0:5 VSS 7.38858e-17
C37 n0:2 VSS 1.62358e-17
C38 n0:3 VSS 5.69045e-17
Rl30 n0:2 n0:3 46.266560 $W=0.094
Rl31 n0:2 Mmn10:g 34.329510 $W=0.039
Rl32 Mmp10:g n0:2 84.329506 $W=0.039
Rk33 n0:3 n0:5 0.271694 $W=0.09
Rk34 n0:5 Mmn6:d 75.120003 $W=0.09
Rk35 n0:5 Mmp6:d 62.458164 $W=0.08
*
*|NET net245 0
*|I (Mmn16:s Mmn16 s X 0 1.2250 0.5875)
*|I (Mmn15:d Mmn15 d X 0 1.2250 0.5875)
Rmw36 Mmn15:d Mmn16:s 0.001000 $W=1
*
*|NET Qint 6.81254e-16
*|I (Mmn15:g Mmn15 g X 0 1.2775 0.5875)
*|I (Mmn10:d Mmn10 d X 0 1.6300 0.5575)
*|I (Mmn22:g Mmn22 g X 0 2.1525 0.4500)
*|I (Mmn20@1:g Mmn20@1 g X 0 2.5975 0.4500)
*|I (Mmp15:g Mmp15 g X 0 1.2225 1.3575)
*|I (Mmp10:d Mmp10 d X 0 1.6150 1.1450)
*|S (Qint:2 1.2500 1.0500)
*|S (Qint:10 2.1000 0.6850)
*|S (Qint:18 1.6550 0.6850)
*|S (Qint:20 1.6250 1.0500)
C39 Mmp10:d VSS 5.75677e-17
C40 Mmp15:g VSS 4.79475e-17
C41 Mmn20@1:g VSS 1.13409e-16
C42 Mmn22:g VSS 1.2529e-16
C43 Mmn10:d VSS 1.80079e-17
C44 Mmn15:g VSS 8.75572e-17
C45 Qint:18 VSS 4.81675e-17
C46 Qint:2 VSS 1.06276e-16
C47 Qint:10 VSS 7.70314e-17
Rl37 Mmn15:g Qint:2 138.461533 $W=0.039
Rl38 Mmn22:g Qint:10 47.958794 $W=0.094
Rl39 Mmn20@1:g Mmn22:g 72.348000 $W=0.039
Rl40 Qint:2 Mmp15:g 64.560440 $W=0.039
Rk41 Qint:18 Qint:10 0.299235 $W=0.08
Rk42 Qint:20 Qint:2 45.277256 $W=0.09
Rk43 Qint:20 Qint:18 0.277349 $W=0.09
Rk44 Qint:18 Mmn10:d 75.067322 $W=0.09
Rk45 Qint:20 Mmp10:d 62.000000 $W=0.09
*
*|NET Qbint 2.90602e-16
*|I (Mmn20@1:d Mmn20@1 d X 0 2.7000 0.4500)
*|I (Mmn21:g Mmn21 g X 0 3.1375 0.4500)
*|I (Mmp20:d Mmp20 d X 0 2.7000 1.1100)
*|S (Qbint:7 2.7000 0.6800)
C48 Mmp20:d VSS 8.54294e-17
C49 Mmn21:g VSS 1.57201e-16
C50 Mmn20@1:d VSS 1.66383e-17
C51 Qbint:7 VSS 3.13337e-17
Rk46 Qbint:7 Mmn20@1:d 75.117226 $W=0.1
Rk47 Qbint:7 Mmn21:g 45.250622 $W=0.1
Rk48 Qbint:7 Mmp20:d 20.977974 $W=0.09
*
*|NET net220 6.81972e-19
*|I (Mmp5:d Mmp5 d X 0 0.6200 1.3575)
*|I (Mmp6:s Mmp6 s X 0 0.6200 1.3575)
C52 Mmp5:d VSS 6.81972e-19
Rmw49 Mmp6:s Mmp5:d 0.001000 $W=1
*
*|NET net212 1.30876e-18
*|I (Mmp16:s Mmp16 s X 0 1.1450 1.3575)
*|I (Mmp15:d Mmp15 d X 0 1.1450 1.3575)
C53 Mmp16:s VSS 1.30876e-18
Rmw50 Mmp15:d Mmp16:s 0.001000 $W=1
*
*Instance Section
*
Mmn1	Mmn1:d	Mmn1:g	VSS	VSS	g45n1hvt	L=0.045U
+ W=0.145U
+ AD=0.0203P	AS=0.05335P	PD=0.57U	PS=1.62U
+ fw=1.45e-07 sa=1.4e-07 sb=1.435e-06 sca=23.279 scb=0.0230742 scc=0.00267719
Mmn5	Mmn5:d	Mmn5:g	VSS	VSS	g45n1hvt	L=0.045U
+ W=0.145U
+ AD=0.0667P	AS=0.05335P	PD=1.21U	PS=1.62U
+ fw=1.45e-07 sa=3.45e-07 sb=1.23e-06 sca=23.279 scb=0.0230742 scc=0.00267719
Mmn6	Mmn6:d	Mmn6:g	Mmn6:s	VSS	g45n1hvt	L=0.045U
+ W=0.145U
+ AD=0.0232P	AS=0.0667P	PD=0.61U	PS=1.21U
+ fw=1.45e-07 sa=8.5e-07 sb=7.25e-07 sca=23.279 scb=0.0230742 scc=0.00267719
Mmn16	Mmn6:d	Mmn16:g	Mmn16:s	VSS	g45n1hvt
+ L=0.045U	W=0.145U
+ AD=0.0232P	AS=0.0087P	PD=0.61U	PS=0.41U
+ fw=1.45e-07 sa=1.055e-06 sb=5.2e-07 sca=23.279 scb=0.0230742 scc=0.00267719
Mmn15	Mmn15:d	Mmn15:g	VSS	VSS	g45n1hvt
+ L=0.045U	W=0.145U
+ AD=0.0087P	AS=0.06575P	PD=0.41U	PS=1.71U
+ fw=1.45e-07 sa=1.16e-06 sb=4.15e-07 sca=23.279 scb=0.0230742 scc=0.00267719
Mmn10	Mmn10:d	Mmn10:g	VSS	VSS	g45n1hvt
+ L=0.045U	W=0.205U
+ AD=0.03485P	AS=0.06575P	PD=0.75U	PS=1.71U
+ fw=2.05e-07 sa=1.03768e-06 sb=1.7e-07 sca=19.867 scb=0.0198061 scc=0.00201945
Mmn0	Mmn0:d	Mmn0:g	VSS	VSS	g45n1hvt	L=0.045U
+ W=0.145U
+ AD=0.0203P	AS=0.05365P	PD=0.57U	PS=1.44U
+ fw=1.45e-07 sa=1.4e-07 sb=1.575e-06 sca=13.6097 scb=0.014254 scc=0.000755054
Mmn22	Mmn22:d	Mmn22:g	VSS	VSS	g45n1hvt
+ L=0.045U	W=0.26U
+ AD=0.0507P	AS=0.04763P	PD=0.91U	PS=1.14U	M=2
+ fw=2.6e-07 sa=2.31058e-07 sb=1.38e-06 sca=11.0409 scb=0.0104003 scc=0.000454168
Mmn20@1	Mmn20@1:d	Mmn20@1:g	VSS	VSS	g45n1hvt
+ L=0.045U	W=0.26U
+ AD=0.0416P	AS=0.0585P	PD=0.84U	PS=0.97U	M=2
+ fw=2.6e-07 sa=6.76058e-07 sb=9.35e-07 sca=11.0409 scb=0.0104003 scc=0.000454168
Mmn21	Mmn21:d	Mmn21:g	VSS	VSS	g45n1hvt
+ L=0.045U	W=0.26U
+ AD=0.0546P	AS=0.0559P	PD=0.94U	PS=0.95U	M=2
+ fw=2.6e-07 sa=1.21606e-06 sb=3.95e-07 sca=11.0409 scb=0.0104003 scc=0.000454168
Mmp1	Mmp1:d	Mmp1:g	VDD	VDD	g45p1hvt	L=0.045U
+ W=0.215U
+ AD=0.0301P	AS=0.0344P	PD=0.71U	PS=0.75U
+ fw=2.15e-07 sa=1.4e-07 sb=1.22465e-06 sca=19.2562 scb=0.0208092 scc=0.000651488
Mmp5	Mmp5:d	Mmp5:g	VDD	VDD	g45p1hvt	L=0.045U
+ W=0.215U
+ AD=0.05805P	AS=0.0344P	PD=0.97U	PS=0.75U
+ fw=2.15e-07 sa=3.45e-07 sb=1.01965e-06 sca=12.9559 scb=0.0103241 scc=9.95448e-05
Mmp6	Mmp6:d	Mmp6:g	Mmp6:s	VDD	g45p1hvt	L=0.045U
+ W=0.215U
+ AD=0.05267P	AS=0.05805P	PD=0.92U	PS=0.97U
+ fw=2.15e-07 sa=6.6e-07 sb=7.04651e-07 sca=10.7129 scb=0.00769258 scc=8.40492e-05
Mmp16	Mmp6:d	Mmp16:g	Mmp16:s	VDD	g45p1hvt
+ L=0.045U	W=0.215U
+ AD=0.05268P	AS=0.02365P	PD=0.92U	PS=0.65U
+ fw=2.15e-07 sa=9.5e-07 sb=4.14651e-07 sca=10.2431 scb=0.00753556 scc=8.40048e-05
Mmp15	Mmp15:d	Mmp15:g	VDD	VDD	g45p1hvt
+ L=0.045U	W=0.215U
+ AD=0.02365P	AS=0.07258P	PD=0.65U	PS=1.46U
+ fw=2.15e-07 sa=1.105e-06 sb=2.59651e-07 sca=10.2431 scb=0.00753556 scc=8.40048e-05
Mmp10	Mmp10:d	Mmp10:g	VDD	VDD	g45p1hvt
+ L=0.045U	W=0.31U
+ AD=0.0434P	AS=0.07258P	PD=0.9U	PS=1.46U
+ fw=3.1e-07 sa=3.10484e-07 sb=1.4e-07 sca=16.415 scb=0.0153923 scc=0.00118075
Mmp0	Mmp0:d	Mmp0:g	VDD	VDD	g45p1hvt	L=0.045U
+ W=0.215U
+ AD=0.0301P	AS=0.0519P	PD=0.71U	PS=1.1U
+ fw=2.15e-07 sa=1.4e-07 sb=1.55e-06 sca=12.1244 scb=0.0107968 scc=0.000332109
Mmp22	Mmp22:d	Mmn22:g	VDD	VDD	g45p1hvt
+ L=0.045U	W=0.39U
+ AD=0.0624P	AS=0.05715P	PD=1.1U	PS=1.1U	M=2
+ fw=3.9e-07 sa=2.35064e-07 sb=1.345e-06 sca=25.6993 scb=0.0190507 scc=0.00277827
Mmp20	Mmp20:d	Mmn20@1:g	VDD	VDD	g45p1hvt
+ L=0.045U	W=0.39U
+ AD=0.0624P	AS=0.08775P	PD=1.1U	PS=1.23U	M=2
+ fw=3.9e-07 sa=6.45064e-07 sb=9.35e-07 sca=25.6993 scb=0.0190507 scc=0.00277827
Mmp21	Mmp21:d	Mmn21:g	VDD	VDD	g45p1hvt
+ L=0.045U	W=0.39U
+ AD=0.0819P	AS=0.08385P	PD=1.2U	PS=1.21U	M=2
+ fw=3.9e-07 sa=1.18506e-06 sb=3.95e-07 sca=28.4121 scb=0.0218393 scc=0.00279381
.ENDS
.END
