*
*|DSPF 1.5
*
*|DATE "Wed May  8 12:07:45 2013"
*|VENDOR "Cadence Design Systems"
*|PROGRAM "Cadence Extraction QRC"
*|VERSION "12.1 Linux 64 bit - (Fri Mar 15 17:53:47 PDT 2013)"
*|DESIGN "TLATX4"
*|DIVIDER /
*|DELIMITER :
*|DeviceFingerDelim "@"
*|BUSBIT []
** caps2d version: 10
*
.GLOBAL  VDD VSS
*
.SUBCKT  TLATX4 D QN Q G
*
*Net Section
*
*|GROUND_NET VSS
*
*|NET D 2.46243e-16
*|P (D X 0 4.5000 0.8550)
*|I (Mmn5:g Mmn5 g X 0 4.2375 0.5125)
*|I (Mmp5:g Mmp5 g X 0 4.2375 1.1775)
*|S (D:2 4.2650 0.8500)
C1 Mmp5:g VSS 3.2798e-17
C2 Mmn5:g VSS 6.94148e-17
C3 D:2 VSS 7.68456e-17
C4 D VSS 6.71844e-17
Rl1 D:2 Mmn5:g 89.153305 $W=0.039
Rl2 Mmp5:g D:2 71.845619 $W=0.039
Rk3 D:2 D 45.103737 $W=0.13
*
*|NET QN 2.86502e-16
*|P (QN X 0 2.3000 1.0450)
*|I (Mmn22@1:d Mmn22@1 d X 0 2.4500 0.4550)
*|I (Mmp22:d Mmp22 d X 0 2.3300 1.1600)
C5 Mmp22:d VSS 1.39158e-16
C6 Mmn22@1:d VSS 1.11514e-16
C7 QN VSS 3.58305e-17
Rk4 Mmp22:d QN 0.016491 $W=0.105
Rk5 Mmp22:d Mmn22@1:d 0.327127 $W=0.1
*
*|NET Q 3.05646e-16
*|P (Q X 0 0.7000 0.8550)
*|I (Mmn21@1:d Mmn21@1 d X 0 0.5700 0.4550)
*|I (Mmp21:d Mmp21 d X 0 0.6900 1.1600)
C8 Mmp21:d VSS 1.72153e-16
C9 Mmn21@1:d VSS 1.13395e-16
C10 Q VSS 2.00986e-17
Rk6 Mmn21@1:d Q 0.183918 $W=0.1
Rk7 Mmp21:d Q 0.088891 $W=0.1
*
*|NET G 2.21783e-16
*|P (G X 0 0.3000 0.8550)
*|I (Mmn0:g Mmn0 g X 0 0.2725 0.5125)
*|I (Mmp0:g Mmp0 g X 0 0.3525 1.0725)
*|S (G:2 0.3100 0.6850)
C11 Mmp0:g VSS 4.07643e-17
C12 Mmn0:g VSS 3.18242e-17
C13 G:2 VSS 1.07747e-16
C14 G VSS 4.1447e-17
Rl8 G:2 Mmn0:g 22.402094 $W=0.039
Rl9 Mmp0:g G:2 94.524155 $W=0.039
Rk10 G G:2 45.101952 $W=0.1
*
*|NET Gb 1.1101e-15
*|I (Mmn0:d Mmn0 d X 0 0.1600 0.5125)
*|I (Mmn16:g Mmn16 g X 0 3.9275 0.5125)
*|I (Mmn1:g Mmn1 g X 0 4.5325 0.5125)
*|I (Mmp0:d Mmp0 d X 0 0.2600 1.0725)
*|I (Mmp6:g Mmp6 g X 0 3.9725 1.1775)
*|I (Mmp1:g Mmp1 g X 0 4.5325 1.1775)
*|S (Gb:3 3.9650 0.3400)
*|S (Gb:6 4.5600 0.3300)
*|S (Gb:8 0.1300 0.5000)
C15 Mmp1:g VSS 4.63841e-17
C16 Mmp6:g VSS 6.40154e-17
C17 Mmp0:d VSS 6.50581e-17
C18 Mmn1:g VSS 3.46331e-17
C19 Mmn16:g VSS 5.88882e-17
C20 Mmn0:d VSS 3.75813e-16
C21 Gb:3 VSS 3.82356e-16
C22 Gb:6 VSS 8.29556e-17
Rl11 Mmn16:g Gb:3 69.232826 $W=0.039
Rl12 Mmn1:g Gb:6 74.537926 $W=0.039
Rl13 Mmp6:g Mmn16:g 186.104111 $W=0.039
Rl14 Mmp1:g Mmn1:g 186.538467 $W=0.039
Rk15 Gb:6 Gb:3 0.426357 $W=0.09
Rk16 Gb:3 Gb:8 2.872647 $W=0.08
Rk17 Mmn0:d Gb:8 75.000000 $W=0.08
Rk18 Gb:8 Mmp0:d 62.501751 $W=0.09
*
*|NET Qbint 6.13357e-16
*|I (Mmn21@1:g Mmn21@1 g X 0 0.4675 0.4550)
*|I (Mmn20@1:d Mmn20@1 d X 0 1.5100 0.4550)
*|I (Mmp20@1:d Mmp20@1 d X 0 1.5100 1.1600)
*|S (Qbint:18 1.5100 0.7150)
C23 Mmp20@1:d VSS 1.62582e-16
C24 Mmn20@1:d VSS 8.64905e-17
C25 Mmn21@1:g VSS 3.35598e-16
C26 Qbint:18 VSS 2.86868e-17
Rk19 Qbint:18 Mmn21@1:g 45.254333 $W=0.09
Rk20 Qbint:18 Mmn20@1:d 0.147380 $W=0.1
Rk21 Mmp20@1:d Qbint:18 0.208134 $W=0.1
*
*|NET Qint 8.73799e-16
*|I (Mmn20@1:g Mmn20@1 g X 0 1.4075 0.4550)
*|I (Mmn22@1:g Mmn22@1 g X 0 2.3475 0.4550)
*|I (Mmn10@1:d Mmn10@1 d X 0 3.3900 0.4825)
*|I (Mmn15:g Mmn15 g X 0 3.6875 0.5125)
*|I (Mmp10@1:d Mmp10@1 d X 0 3.1800 1.2000)
*|I (Mmp15:g Mmp15 g X 0 3.5575 1.1775)
*|S (Qint:32 3.5200 0.8150)
*|S (Qint:34 3.3900 0.7550)
*|S (Qint:35 3.1800 0.7550)
C27 Mmp15:g VSS 5.03579e-17
C28 Mmp10@1:d VSS 7.86666e-17
C29 Mmn15:g VSS 5.32412e-17
C30 Mmn10@1:d VSS 3.25185e-17
C31 Mmn22@1:g VSS 2.63018e-16
C32 Mmn20@1:g VSS 2.44312e-16
C33 Qint:35 VSS 3.09127e-17
C34 Qint:34 VSS 2.69796e-17
C35 Qint:32 VSS 9.37923e-17
Rl22 Mmn22@1:g Mmn20@1:g 52.313217 $W=0.039
Rl23 Mmn15:g Qint:32 116.861809 $W=0.039
Rl24 Qint:32 Mmp15:g 83.848213 $W=0.039
Rk25 Qint:34 Qint:32 45.136856 $W=0.06
Rk26 Qint:35 Qint:34 0.165190 $W=0.09
Rk27 Qint:35 Mmn22@1:g 45.236031 $W=0.0865
Rk28 Qint:34 Mmn10@1:d 75.137718 $W=0.1
Rk29 Qint:35 Mmp10@1:d 31.303818 $W=0.085
*
*|NET n0 4.98471e-16
*|I (Mmn10@1:g Mmn10@1 g X 0 3.2875 0.4825)
*|I (Mmn16:d Mmn16 d X 0 4.0300 0.5125)
*|I (Mmp10@1:g Mmp10@1 g X 0 3.0775 1.2000)
*|I (Mmp16:d Mmp16 d X 0 3.8525 1.1775)
*|S (n0:7 3.3400 0.9450)
*|S (n0:9 3.6800 1.0050)
C36 Mmp16:d VSS 2.34207e-17
C37 Mmp10@1:g VSS 1.1229e-16
C38 Mmn16:d VSS 1.14273e-16
C39 Mmn10@1:g VSS 9.80133e-17
C40 n0:9 VSS 8.89973e-17
C41 n0:7 VSS 6.14769e-17
Rl30 Mmp10@1:g n0:7 48.808784 $W=0.094
Rl31 Mmn10@1:g Mmp10@1:g 94.889297 $W=0.039
Rk32 n0:9 n0:7 0.260218 $W=0.09
Rk33 n0:9 Mmn16:d 75.626770 $W=0.08
Rk34 n0:9 Mmp16:d 62.199566 $W=0.09
*
*|NET net245 2.61331e-18
*|I (Mmn15:d Mmn15 d X 0 3.8075 0.5125)
*|I (Mmn16:s Mmn16 s X 0 3.8075 0.5125)
C42 Mmn15:d VSS 2.61331e-18
Rmw35 Mmn16:s Mmn15:d 0.001000 $W=1
*
*|NET net257 0
*|I (Mmn6:s Mmn6 s X 0 4.1850 0.5125)
*|I (Mmn5:d Mmn5 d X 0 4.1850 0.5125)
Rmw36 Mmn5:d Mmn6:s 0.001000 $W=1
*
*|NET Gbb 4.58192e-16
*|I (Mmn6:g Mmn6 g X 0 4.1325 0.5125)
*|I (Mmn1:d Mmn1 d X 0 4.6575 0.5125)
*|I (Mmp16:g Mmp16 g X 0 3.7325 1.1775)
*|I (Mmp1:d Mmp1 d X 0 4.6425 1.1775)
*|S (Gbb:1 3.8400 0.9300)
*|S (Gbb:4 4.1050 0.6950)
*|S (Gbb:6 4.6700 0.6600)
C43 Mmp1:d VSS 4.27883e-17
C44 Mmp16:g VSS 3.95114e-17
C45 Mmn1:d VSS 1.04887e-17
C46 Mmn6:g VSS 7.18003e-17
C47 Gbb:6 VSS 6.30202e-17
C48 Gbb:1 VSS 1.11019e-16
C49 Gbb:4 VSS 1.19565e-16
Rl37 Mmn6:g Gbb:4 74.537926 $W=0.039
Rl38 Gbb:1 Mmp16:g 102.669495 $W=0.039
Rk39 Gbb:4 Gbb:1 0.344328 $W=0.09
Rk40 Gbb:6 Gbb:4 0.388532 $W=0.09
Rk41 Gbb:6 Mmn1:d 75.096092 $W=0.1
Rk42 Mmp1:d Gbb:6 62.344326 $W=0.09
*
*|NET net212 2.32894e-18
*|I (Mmp15:d Mmp15 d X 0 3.6450 1.1775)
*|I (Mmp16:s Mmp16 s X 0 3.6450 1.1775)
C50 Mmp15:d VSS 2.32894e-18
Rmw43 Mmp16:s Mmp15:d 0.001000 $W=1
*
*|NET net220 1.95947e-20
*|I (Mmp6:s Mmp6 s X 0 4.1050 1.1775)
*|I (Mmp5:d Mmp5 d X 0 4.1050 1.1775)
C51 Mmp6:s VSS 1.95947e-20
Rmw44 Mmp5:d Mmp6:s 0.001000 $W=1
*
*Instance Section
*
Mmn0	Mmn0:d	Mmn0:g	VSS	VSS	g45n1hvt	L=0.045U
+ W=0.145U
+ AD=0.0261P	AS=0.0641P	PD=0.65U	PS=1.62U
+ fw=1.45e-07 sa=1.8e-07 sb=2e-06 sca=13.9854 scb=0.014728 scc=0.000819645
Mmn15	Mmn15:d	Mmn15:g	VSS	VSS	g45n1hvt
+ L=0.045U	W=0.145U
+ AD=0.02827P	AS=0.06135P	PD=0.68U	PS=1.62U
+ fw=1.45e-07 sa=2e-06 sb=1.05e-06 sca=13.9854 scb=0.014728 scc=0.000819645
Mmn16	Mmn16:d	Mmn16:g	Mmn16:s	VSS	g45n1hvt
+ L=0.045U	W=0.145U
+ AD=0.0232P	AS=0.02827P	PD=0.61U	PS=0.68U
+ fw=1.45e-07 sa=2e-06 sb=8.1e-07 sca=13.9854 scb=0.014728 scc=0.000819645
Mmn6	Mmn16:d	Mmn6:g	Mmn6:s	VSS	g45n1hvt	L=0.045U
+ W=0.145U
+ AD=0.0232P	AS=0.0087P	PD=0.61U	PS=0.41U
+ fw=1.45e-07 sa=2e-06 sb=6.05e-07 sca=13.9854 scb=0.014728 scc=0.000819645
Mmn5	Mmn5:d	Mmn5:g	VSS	VSS	g45n1hvt	L=0.045U
+ W=0.145U
+ AD=0.0087P	AS=0.07945P	PD=0.41U	PS=1.51U
+ fw=1.45e-07 sa=2e-06 sb=5e-07 sca=13.9854 scb=0.014728 scc=0.000819645
Mmn1	Mmn1:d	Mmn1:g	VSS	VSS	g45n1hvt	L=0.045U
+ W=0.145U
+ AD=0.02972P	AS=0.07945P	PD=0.7U	PS=1.51U
+ fw=1.45e-07 sa=2e-06 sb=2.05e-07 sca=13.9854 scb=0.014728 scc=0.000819645
Mmn21@1	Mmn21@1:d	Mmn21@1:g	VSS	VSS	g45n1hvt
+ L=0.045U	W=0.26U
+ AD=0.0416P	AS=0.08098P	PD=0.84U	PS=1.4925U	M=4
+ fw=2.6e-07 sa=2.53365e-07 sb=2e-06 sca=11.3041 scb=0.010759 scc=0.000493236
Mmn10@1	Mmn10@1:d	Mmn10@1:g	VSS	VSS	g45n1hvt
+ L=0.045U	W=0.205U
+ AD=0.0328P	AS=0.0726P	PD=0.73U	PS=1.535U	M=2
+ fw=2.05e-07 sa=2e-06 sb=1.11488e-06 sca=12.4149 scb=0.012446 scc=0.000614222
Mmn20@1	Mmn20@1:d	Mmn20@1:g	VSS	VSS	g45n1hvt
+ L=0.045U	W=0.26U
+ AD=0.0416P	AS=0.0866P	PD=0.84U	PS=1.45U	M=4
+ fw=2.6e-07 sa=1.19337e-06 sb=1.95452e-06 sca=11.3041 scb=0.010759 scc=0.000493236
Mmn22@1	Mmn22@1:d	Mmn22@1:g	VSS	VSS	g45n1hvt
+ L=0.045U	W=0.26U
+ AD=0.0416P	AS=0.08591P	PD=0.84U	PS=1.45U	M=4
+ fw=2.6e-07 sa=1.99115e-06 sb=1.58144e-06 sca=11.3041 scb=0.010759 scc=0.000493236
Mmp0	Mmp0:d	Mmp0:g	VDD	VDD	g45p1hvt	L=0.045U
+ W=0.215U
+ AD=0.0301P	AS=0.06535P	PD=0.71U	PS=1.16U
+ fw=2.15e-07 sa=1.4e-07 sb=2e-06 sca=27.7871 scb=0.0280637 scc=0.00253496
Mmp15	Mmp15:d	Mmp15:g	VDD	VDD	g45p1hvt
+ L=0.045U	W=0.215U
+ AD=0.02795P	AS=0.05895P	PD=0.69U	PS=1.08U
+ fw=2.15e-07 sa=2e-06 sb=1.15e-06 sca=12.9303 scb=0.0120133 scc=0.000461649
Mmp16	Mmp16:d	Mmp16:g	Mmp16:s	VDD	g45p1hvt
+ L=0.045U	W=0.215U
+ AD=0.04192P	AS=0.02795P	PD=0.82U	PS=0.69U
+ fw=2.15e-07 sa=2e-06 sb=9.75e-07 sca=12.9303 scb=0.0120133 scc=0.000461649
Mmp6	Mmp16:d	Mmp6:g	Mmp6:s	VDD	g45p1hvt	L=0.045U
+ W=0.215U
+ AD=0.04192P	AS=0.0473P	PD=0.82U	PS=0.87U
+ fw=2.15e-07 sa=2e-06 sb=7.35e-07 sca=13.2438 scb=0.0121009 scc=0.000461666
Mmp5	Mmp5:d	Mmp5:g	VDD	VDD	g45p1hvt	L=0.045U
+ W=0.215U
+ AD=0.0473P	AS=0.05375P	PD=0.87U	PS=0.93U
+ fw=2.15e-07 sa=2e-06 sb=4.7e-07 sca=14.5574 scb=0.0132152 scc=0.000464156
Mmp1	Mmp1:d	Mmp1:g	VDD	VDD	g45p1hvt	L=0.045U
+ W=0.215U
+ AD=0.03762P	AS=0.05375P	PD=0.78U	PS=0.93U
+ fw=2.15e-07 sa=2e-06 sb=1.75e-07 sca=21.3411 scb=0.0244017 scc=0.000941054
Mmp20@1	Mmp20@1:d	Mmn20@1:g	VDD	VDD	g45p1hvt
+ L=0.045U	W=0.39U
+ AD=0.0624P	AS=0.0624P	PD=1.1U	PS=1.1U	M=4
+ fw=3.9e-07 sa=1.08955e-06 sb=1.90673e-06 sca=17.2385 scb=0.0152696 scc=0.00137893
Mmp22	Mmp22:d	Mmn22@1:g	VDD	VDD	g45p1hvt
+ L=0.045U	W=0.39U
+ AD=0.0624P	AS=0.06432P	PD=1.1U	PS=1.115U	M=4
+ fw=3.9e-07 sa=1.90128e-06 sb=1.53878e-06 sca=17.2385 scb=0.0152696 scc=0.00137893
Mmp10@1	Mmp10@1:d	Mmp10@1:g	VDD	VDD	g45p1hvt
+ L=0.045U	W=0.31U
+ AD=0.0496P	AS=0.06453P	PD=0.94U	PS=1.12U	M=2
+ fw=3.1e-07 sa=2e-06 sb=1.22395e-06 sca=12.9031 scb=0.0116454 scc=0.000496931
Mmp21	Mmp21:d	Mmn21@1:g	VDD	VDD	g45p1hvt
+ L=0.045U	W=0.39U
+ AD=0.0624P	AS=0.06314P	PD=1.1U	PS=1.115U	M=4
+ fw=3.9e-07 sa=2.69551e-07 sb=2e-06 sca=18.6696 scb=0.0162362 scc=0.00138051
.ENDS
.END
